US05663053
A mixture of 4,5-diphenyltriazole (11 g), 1,8-dibromooctane (67.6 g), and potassium carbonate (10.31 g) in dry butanone (300 ml ) was heated at reflux temperature for 24 hours. The mixture was filtered and the solvent evaporated to give an oily residue. Distillation to remove 1,8-dibromooctane and column chromatography on silica gel eluted with a hexane:ethyl acetate gradient gave 2-(8-bromooctyl)-4,5-diphenyl-triazole (11.13 g, 54%) as an oil. NMR d (CDCl3) 1.2-1.5 (8H, m, 4×CH2), 1.84 (2H, m, CH2), 2.05 (2H, m, CH2), 3.37 (2H, t, Br-CH2), 4.47 (2H, t, N-CH2), 7.3- 7.6 (10H, m, 2×Ph) ppm

reactant | 4,5-diphenyltriazole | 11 g | C1(=CC=CC=C1)C=1N=NNC1C1=CC=CC=C1 | C14H11N3
reactant | 1,8-dibromooctane | 67.6 g | BrCCCCCCCCBr | C8H16Br2
reactant | potassium carbonate | 10.31 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 300 ml | CC(CC)=O | C4H8O
product | 2-(8-bromooctyl)-4,5-diphenyl-triazole | 11.13 g, 54% | BrCCCCCCCCN1N=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H26BrN3
